US07888364B2
A mixture of 52 mg of pyrazole and 18 mg of sodium hydride in 2 mL of DMF were stirred for 10 min. 90 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide was added. The reaction was heated to 140° C. for 5 h. The reaction mixture was quenched with MeOH and evaporated. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(1H-pyrazol-1-yl)nicotinamide. MS (Q1) 390.0 (M)+.

reactant | pyrazole | 52 mg | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 18 mg | [H-].[Na+]
reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 90 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(1H-pyrazol-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1N=CC=C1)C)=O)C1=NC=CC=C1 | C21H16ClN5O
